US06677158B2
Coupling of Amino-phenylboronic Acid to Activated Paper
The activated paper was immersed in 10 ml of coupling buffer (0.2M K2HPO4/0.2M KH2PO4; 8.5:1.5 v/v; pH 7.6), to which was added 20 ml of coupling buffer containing 5 mg/ml aminophenylboronic acid hemisulphate. The mixture was stirred by shaking for 12 hours at room temperature. The paper was then repeatedly washed thoroughly with coupling buffer. The derivatized paper was then immersed in 20 ml of coupling buffer containing 0.25M ethanolamine and stirred 4-5 hours at room temperature. It was again washed with coupling buffer followed by 0.2M sodium acetate, pH 4.5, and finally washed with distilled water and air dried.

reactant | K2HPO4 | 0.2M | OP(=O)([O-])[O-].[K+].[K+]
reactant | aminophenylboronic acid hemisulphate | S(=O)(=O)(O)O.NOB(O)C1=CC=CC=C1.NOB(O)C1=CC=CC=C1
product | Amino-phenylboronic Acid | NOB(O)C1=CC=CC=C1 | C6H8BNO2
